US04364956
5-(4-Methoxyphenyl)-4-oxo-4H-pyran-2-carboxamide
Cold concentrated ammonia solution (30%, 80 ml) was added to a stirred suspension of ethyl 5-(4-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylate (12.4 g) in ethanol (120 ml) at 5°-10° C. The mixture was stirred for a further 30 minutes at 0°-5° C. then the solid title product was washed with water and dried (mp 262°-263° C. with decomposition).

reactant | ammonia | 80 ml | N | H3N
reactant | ethyl 5-(4-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylate | 12.4 g | COC1=CC=C(C=C1)C=1C(C=C(OC1)C(=O)OCC)=O | C15H14O5
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 5-(4-Methoxyphenyl)-4-oxo-4H-pyran-2-carboxamide | COC1=CC=C(C=C1)C=1C(C=C(OC1)C(=O)N)=O | C13H11NO4
